US08871782B2
4-Morpholinecarbonyl chloride (0.177 mL, 1.52 mmol) was added dropwise to a solution of 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.46 mmol) in dichloromethane, and the reaction was stirred for ten minutes. Triethylamine (0.418 mL, 3.00 mmol) was then added, and the reaction was stirred for 16 hours. Aqueous sodium hydroxide (50%) was added, and the mixture was stirred for 30 minutes and then diluted with dichloromethane (100 mL). The organic layer was separated, washed sequentially with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was then treated with concentrated hydrochloric acid and water. A precipitate formed and was isolated by filtration, washed with water and diethyl ether, and dried in a vacuum oven at 60° C. to provide 0.180 g of N-(2-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}ethyl)morpholine-4-carboxamide hydrochloride as a white solid, mp 200-202° C.

reactant | 4-Morpholinecarbonyl chloride | 1.52 mmol, 0.177 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.46 mmol, 0.500 g | NCCOC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COCC | C18H25N5O2
reactant | Triethylamine | 3.00 mmol, 0.418 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(2-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}ethyl)morpholine-4-carboxamide hydrochloride | 0.180 g | Cl.NC1=NC=2C=CC(=CC2C2=C1N=C(N2CCC)COCC)OCCNC(=O)N2CCOCC2 | InChI=1S/C23H32N6O4.ClH/c1-3-8-29-19(15-31-4-2)27-20-21(29)17-14-16(5-6-18(17)26-22(20)24)33-11-7-25-23(30)28-9-12-32-13-10-28;/h5-6,14H,3-4,7-13,15H2,1-2H3,(H2,24,26)(H,25,30);1H
